US07629294B2
7. Juvenile-hormone Mimetics
(for example diofenolan, epofenonane, fenoxycarb, hydroprene, kinoprene, methoprene, pyriproxifen, triprene)

reactant | diofenolan | CCC1OCC(O1)COC2=CC=C(C=C2)OC3=CC=CC=C3 | C18H20O4
reactant | epofenonane | CCC1=CC=C(C=C1)OCCC(CC)CCC2C(O2)(C)CC | C20H32O2
reactant | fenoxycarb | CCOC(=O)NCCOC1=CC=C(C=C1)OC2=CC=CC=C2 | C17H19NO4
reactant | hydroprene | CCOC(=O)/C=C(\C)/C=C/CC(C)CCCC(C)C | C17H30O2
reactant | kinoprene | CC(C)CCCC(C)C/C=C/C(=C/C(=O)OCC#C)/C | C18H28O2
reactant | methoprene | C[C@@H](CCCC(C)(C)OC)C/C=C/C(=C/C(=O)OC(C)C)/C | C19H34O3
reactant | pyriproxifen | CC(COC=1C=CC(=CC1)OC=2C=CC=CC2)OC=3C=CC=CN3 | C20H19NO3
reactant | triprene | CCSC(=O)/C=C(\C)/C=C/CC(C)CCCC(C)(C)OC | C18H32O2S
product | Juvenile-hormone | C[C@H](CC(=O)CC(C)C)C1=CC=C(C=C1)C(=O)OC | C16H22O3
